US07507740B2
(iii) Production of 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride
A mixture of tert-butyl {2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate (1.12 g), 2N hydrochloric acid (15 mL) and tetrahydrofuran (30 mL) was stirred at 60° C. for 20 hrs. The solvent was evaporated under reduced pressure, ethanol was added, and the mixture was further concentrated. The precipitated crystals were collected by filtration and the crystals were washed with ethyl acetate to give the title compound (1.07 g) as pale-yellow crystals.

reactant | tert-butyl {2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate | 1.12 g | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCNC(OC(C)(C)C)=O | C26H25ClF3N5O3
reactant | hydrochloric acid | 2N, 15 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 1.07 g | Cl.Cl.NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl | InChI=1S/C21H17ClF3N5O.2ClH/c22-16-11-14(29-20-19-17(27-12-28-20)6-8-30(19)9-7-26)4-5-18(16)31-15-3-1-2-13(10-15)21(23,24)25;;/h1-6,8,10-12H,7,9,26H2,(H,27,28,29);2*1H
